US07544812B2
2-Butoxy-2-methyl-3-(4-{2-[3-methyl-2-oxo-1-(3-trifluoromethyl-benzyl)-imidazolidin-4-yl]-ethoxy}-phenyl)-propionic acid:
A solution of 2-Butoxy-2-methyl-3-(4-{2-[3-methyl-2-oxo-1-(3-trifluoromethyl-benzyl)-imidazolidin-4-yl]-ethoxy}-phenyl)-propionic acid ethyl ester and 5N NaOH (0.3 mL) in ethanol (3 mL) is refluxed under nitrogen for 1 h, cooled to ambient temperature, and concentrated. The residue is diluted with 1N HCl, extracted with CH2Cl2, dried, concentrated, and purified by LCMS to provide the title compound. 1H NMR (400 MHz, CDCl3): δ 7.51-7.38 (m, 4H), 7.04 (d, 2H, J=8.8 Hz), 6.69 (d, 2H, J=8.8 Hz), 4.46, 4.34 (ABq, 2H, J=14.9 Hz), 3.94 (t, 2H, J=5.7 Hz), 3.68-3.60 (m, 1H), 3.57-3.52 (m, 1H), 3.48-3.43 (m, 1H), 3.38 (t, 1H, J=8.8 Hz), 2.98, 2.92 (ABq, 2H, J=14.4 Hz), 2.83 (s, 3H), 2.25-2.18 (m, 1H), 1.91-1.83 (m, 1H), 1.59-1.52 (m, 2H), 1.45 (s, 3H), 1.39-1.30 (m, 2H), 0.91 (t, 3H, J=7.2 Hz). MS [EI+] 537 (M+H)+, [EI−] 535 (M−H)+.

reactant | 2-Butoxy-2-methyl-3-(4-{2-[3-methyl-2-oxo-1-(3-trifluoromethyl-benzyl)-imidazolidin-4-yl]-ethoxy}-phenyl)-propionic acid ethyl ester | C(C)OC(C(CC1=CC=C(C=C1)OCCC1N(C(N(C1)CC1=CC(=CC=C1)C(F)(F)F)=O)C)(C)OCCCC)=O | C30H39F3N2O5
reactant | NaOH | 5N, 0.3 mL | [OH-].[Na+]
solvent | ethanol | 3 mL | C(C)O | C2H6O
product | 2-Butoxy-2-methyl-3-(4-{2-[3-methyl-2-oxo-1-(3-trifluoromethyl-benzyl)-imidazolidin-4-yl]-ethoxy}-phenyl)-propionic acid | C(CCC)OC(C(=O)O)(CC1=CC=C(C=C1)OCCC1N(C(N(C1)CC1=CC(=CC=C1)C(F)(F)F)=O)C)C | C28H35F3N2O5
